US05380713
D: N-(5-Dimethylamino-1-naphthalenesulfonyl)-glycyl-L-proline Hydrochloride
A cold (0° C.), saturated solution of hydrogen chloride in dioxane (400 mL) was added to N-(5-dimethylamino-1-naphthalenesulfonyl)-glycyl-L-proline tert-butyl ester (7.20 g, 15.6 mmol). The mixture was stirred at about 0° C. for about 2 hours and at room temperature for about 2 hours before ether (100 mL) was added. After refrigeration for about 1 hour, the mixture was suction-filtered and afforded 8.30 g (99%) of the title compound as a dense, white solid, m.p. 115°-135° C. (sealed tube); 1H NMR (D2O) δ 8.53 (d, J=8.8 Hz, 1H), 8.30 (d, J=8.7 Hz, 1H), 8.10 (d, J=7.4 Hz, H), 7.95 (d, J=7.8 Hz 1H), 7.74-7.67 (m, 2H), 3.84-3.67 (m, 2H), 3.61 (s, 6H), 3.32-3.17 (m, 2H), 1.96-1.87 (m, 1H), 1.77-1.67 (m, 3H); --C NMR (D2O) ppm 178.17, 178.03, 170.68, 170.34, 141.10, 137.84, 137.61, 133.07, 132.88, 131.39, 130.65, 129.57, 129.24, 128.50, 128.41, 128.11, 122.13, 61.88, 49.52, 49.27, 46.82, 33.44, 31.34, 26.84, 24.32; IR (KBr, cm-1) 3432, 3070, 2960, 1736, 1654, 1440, 1328, 1178, 1146, 1120, 872, 772, 586; MS m/z (MH+ -HCl) calcd 406.1437, obsd 406.1450.

reactant | hydrogen chloride | Cl | ClH
reactant | N-(5-dimethylamino-1-naphthalenesulfonyl)-glycyl-L-proline tert-butyl ester | 15.6 mmol, 7.20 g | C(C)(C)(C)OC([C@H]1N(CCC1)C(CNS(=O)(=O)C1=CC=CC2=C(C=CC=C12)N(C)C)=O)=O | C23H31N3O5S
reactant | ether | 100 mL | CCOCC | C4H10O
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | N-(5-Dimethylamino-1-naphthalenesulfonyl)-glycyl-L-proline Hydrochloride | 8.30 g, 99% | Cl.CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NCC(=O)N1[C@H](C(=O)O)CCC1)C | InChI=1S/C19H23N3O5S.ClH/c1-21(2)15-8-3-7-14-13(15)6-4-10-17(14)28(26,27)20-12-18(23)22-11-5-9-16(22)19(24)25;/h3-4,6-8,10,16,20H,5,9,11-12H2,1-2H3,(H,24,25);1H/t16-;/m0./s1
